*******************************************************************************
*****************************************************************
* NXP PSMN8R2_80YS
*
* Polarity N-Channel
* Ratings 80V/8.20E-03OHMS/15A
*
* Date Created Wed Feb 17 11:32:37 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN8R2_80YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 8000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00471010163363285 TC=0.00428016009409163,1.73323238776224e-05
RBD 9 4 0.000442821689440617 TC=0.00428016009409163,1.73323238776224e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 3.516e-09
RG 1 2 0.737840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2555
+ -8	2540
+ -6	2525
+ -4	2496
+ -2	1983
+ 0	844.5
+ 0.1	603
+ 0.2	569
+ 0.5	495
+ 1	394
+ 2	277
+ 5	247
+ 10	231
+ 20	203
+ 30	187
+ 40	177



.MODEL MINT NMOS(Vto=3.4444065345314 Kp=2.3876e+02 Nfs=450000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=200)

.MODEL DBD D(Bv=89.60 Ibv=1.00E-05 Rs=1E-6 Is=2.07587743072356e-12
+ N=1 M=0.67 VJ=0.83 Fc=0.5 Cjo=1.93e-09 Tt=2.75e-08)

.ENDS

*******************************************************************************
